US07081454B2
1-(3-Chloro-phenyl)-2-nitro-ethanol:
To a solution of 3-chloro-benzaldehyde (20 g, 0.142 mol) in nitromethane (100 mL) were added magnesium sulfate (37.6 g, 0.312 mol) and phosphazene base P1-t-bu-tris(tetramethylene) (4.43 g, 0.014 mol). The reaction mixture was stirred at room temperature for 2 h. After concentration in vacuo, the residue was purified by flash chromatography (25% EtOAc/hexane) to yield the title compound (26.4 g, 100%) as a green-yellow oil. 1H NMR (300 MHz, DMSO-d6) δ 7.53 (1H, s), 7.35–7.42 (3H, m), 6.23 (1H, broad s), 5.32–5.33 (1H, m), 4.90 (1H, dd, J=3.2, 12.4 Hz), 4.60 (1H, dd, J=1.2, 12.4 Hz).

reactant | 3-chloro-benzaldehyde | 0.142 mol, 20 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | magnesium sulfate | 0.312 mol, 37.6 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | phosphazene base P1-t-bu-tris(tetramethylene) | 0.014 mol, 4.43 g | CC(C)(C)N=P(N1CCCC1)(N2CCCC2)N3CCCC3 | C16H33N4P
reactant | nitromethane | 100 mL | [N+](=O)([O-])C | CH3NO2
product | 1-(3-Chloro-phenyl)-2-nitro-ethanol | 26.4 g, 100% | ClC=1C=C(C=CC1)C(C[N+](=O)[O-])O | C8H8ClNO3
